US06171603B2
(a) Preparation of 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-nonenoic acid
1 g (3.8 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglyoxylic acid and 10 ml of DMSO were introduced into a three-necked flask under a nitrogen stream. 2.37 ml of n-BuLi (1.6 M in hexane) were added dropwise and the mixture was stirred at room temperature for 15 minutes. 2 g (4.5 mmol) of n-heptyltriphenylphosphine bromide were then added and 2.85 ml (4.5 mmol) of n-BuLi (1.6 M in hexane) were added dropwise and the mixture was stirred at room temperature for one hour. The reaction medium was poured into water, adjusted to pH 1 with hydrochloric acid, extracted with ethyl ether, the organic phase decanted off, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column, eluted with a mixture of ethyl ether and heptane (40/60). 380 mg (28%) of the expected compound were recovered in the form of an oil after evaporation of the solvents.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglyoxylic acid | 3.8 mmol, 1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)=O)C | C16H20O3
reactant | n-BuLi | 1.6 M, 2.37 ml | [Li]CCCC
reactant | n-heptyltriphenylphosphine bromide | 4.5 mmol, 2 g | [Br-].C(CCCCCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.5 mmol, 1.6 M, 2.85 ml | [Li]CCCC
reactant | hydrochloric acid | Cl | ClH
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-nonenoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)=CCCCCCC)C | C23H34O2
